US07018988B2
(2S,4EZ)-N2-benzyl-4-benzylidene-N2-methyl-N1-(3-methylphenyl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-benzylidene-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 1-isocyanato-3-methylbenzene, and N-benzyl-N-methylamine the title compound was obtained in 68% purity by LC/MS. MS(ESI+): m/z=440.2.

reactant | (2S,4EZ)-4-benzylidene-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H21NO4
reactant | 1-isocyanato-3-methylbenzene | N(=C=O)C1=CC(=CC=C1)C | C8H7NO
reactant | N-benzyl-N-methylamine | C(C1=CC=CC=C1)NC | C8H11N
product | (2S,4EZ)-N2-benzyl-4-benzylidene-N2-methyl-N1-(3-methylphenyl)-1,2-pyrrolidinedicarboxamide | C(C1=CC=CC=C1)N(C(=O)[C@H]1N(CC(C1)=CC1=CC=CC=C1)C(=O)NC1=CC(=CC=C1)C)C | C28H29N3O2
